US04432993
A mixture of 2-(2-benzofuranyl)-2-hydroxyethanamine (1.0 g) and 4-[(E)-2-carbomethoxyethenyl]phenyl propan-2-one (1.13 g) was heated under reflux using a Dean and Stark head until the theoretical amount of water had been removed. The solvent was evaporated, the residue dissolved in methanol (50 ml) and sodium borohydride (0.5 g) added. The solvent was evaporated, the residue partitioned between water and ethyl acetate and the organic layer dried (magnesium sulphate). Removal of the solvent gave an oil which was chromatographed on Kieselgel 60. Elution with 2% methanol-chloroform gave N-[2-(4-[(E)-2-carbomethoxyethenyl]phenyl)-1-methylethyl]-2-(2-benzofuranyl)-2-hydroxyethanamine, as a 54:46 mixture of diastereoisomers, m.p. 85-89 (cyclohexane).

reactant | 2-(2-benzofuranyl)-2-hydroxyethanamine | 1.0 g | O1C(=CC2=C1C=CC=C2)C(CN)O | C10H11NO2
reactant | 4-[(E)-2-carbomethoxyethenyl]phenyl propan-2-one | 1.13 g | C(=O)(OC)/C=C/C1=CC=C(C=C1)CC(C)=O | C13H14O3
solvent | water | O | H2O
product | N-[2-(4-[(E)-2-carbomethoxyethenyl]phenyl)-1-methylethyl]-2-(2-benzofuranyl)-2-hydroxyethanamine | C(=O)(OC)/C=C/C1=CC=C(C=C1)CC(C)NCC(O)C=1OC2=C(C1)C=CC=C2 | C23H25NO4
